US06114390
a) (R)-N-[[4-(Aminocarbonylmethyl)phenyl]methyl]-N2 -(diphenylacetyl)-N5 -(phenylmethoxycarbonyl)-ornithinamide
Prepared analogously to Example 6d) from (R)-N2 -diphenylacetyl-N5 -(phenylmethoxycarbonyl)-ornithine, 4-(aminocarbonylmethyl)-benzenemethanamine and TBTU in a yield of 89% of theory. Colourless crystals, Mp. 203-205° C.

reactant | (R)-N2 -diphenylacetyl-N5 -(phenylmethoxycarbonyl)-ornithine | C1(=CC=CC=C1)C(C(=O)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C27H28N2O5
reactant | 4-(aminocarbonylmethyl)-benzenemethanamine | NC(=O)CC1=CC=C(C=C1)CN | C9H12N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | (R)-N-[[4-(Aminocarbonylmethyl)phenyl]methyl]-N2 -(diphenylacetyl)-N5 -(phenylmethoxycarbonyl)-ornithinamide | yield of 89% | NC(=O)CC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(=O)OCC1=CC=CC=C1)=O | C36H38N4O5
